US06756378B2
A mixture of 3-methoxy-4-[N′-(2-methylphenyl)ureido]phenylacetic acid (428 mg, 1.36 mmol), methyl (S)-4-(2-pyrrolidinylmethoxy)benzoate (330 mg, 1.40 mmol), EDC (312 mg, 1.63 mg), HOBt (220 mg, 1.63 mmol), and a catalytic amount of DMAP in DMF (15 mL) was stirred for 6 hr. The resulting mixture was diluted with EtOAc, washed with 0.5 N HCl, sat. NaHCO3, brine, and dried over MgSO4. The solvent was evaporated off in vacuo to give an oily residue, which was purified by column chromatography on silica-gel with CHCl3—MeOH (50:1, v/v) as eluent to give 540 mg (75%) methyl (S)-4-[1-[3-methoxy-4-[N′-(2-methylphenyl)ureido]phenylacetyl]-2-pyrrolidinylmethoxy]benzoate as an oil. 1H-NMR (CDCl3) δ1.81-2.12 (m, 4 H) 2.88 (bs, 3 H), 3.48-3.61 (m, total 7 H), 3.88 (s, 3 H), 4.10-4.46 (m, 1 H), 6.75-8.08 (series of m, total 13 H).

reactant | 3-methoxy-4-[N′-(2-methylphenyl)ureido]phenylacetic acid | 1.36 mmol, 428 mg | COC=1C=C(C=CC1NC(=O)NC1=C(C=CC=C1)C)CC(=O)O | C17H18N2O4
reactant | methyl (S)-4-(2-pyrrolidinylmethoxy)benzoate | 1.40 mmol, 330 mg | N1[C@@H](CCC1)COC1=CC=C(C(=O)OC)C=C1 | C13H17NO3
reactant | EDC | 312 mg
reactant | HOBt | 1.63 mmol, 220 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | methyl (S)-4-[1-[3-methoxy-4-[N′-(2-methylphenyl)ureido]phenylacetyl]-2-pyrrolidinylmethoxy]benzoate | 540 mg, 75% | COC=1C=C(C=CC1NC(=O)NC1=C(C=CC=C1)C)CC(=O)N1[C@@H](CCC1)COC1=CC=C(C(=O)OC)C=C1 | C30H33N3O6
